US06093710
To a mixture of 5-(2-thienyl)pentanoic acid (5.04 g) and toluene (50 ml) was dropwise added trifluoroacetic anhydride (6.95 ml) over 1 minute with ice-water cooling. The reaction mixture was stirred at room temperature (r.t.) overnight, and was poured into a mixture of a saturated aqueous solution of sodium hydrogen carbonate (NaHCO3) and AcOEt. The organic layer was washed with water and brine, and dried over MgSO4, and evaporated. The resulting oil was purified by chromatography on silica gel (SiO2) (20% AcOEt in n-hexane as eluent). The fractions including the object compound were combined and evaporated to give 4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]thiophene (1.57 g) as an oil.

reactant | 5-(2-thienyl)pentanoic acid | 5.04 g | S1C(=CC=C1)CCCCC(=O)O | C9H12O2S
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | trifluoroacetic anhydride | 6.95 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]thiophene | 1.57 g | O=C1CCCCC=2SC=CC21 | C9H10OS
